US07071175B1
Diethylamine (0.153 mL, 1.473 mmol) was added to a solution of 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-ethyl]-malonic acid monoethyl ester (423 mg, 1.2 mmol) and formaldehyde (132 mg, 1.626 mmol, 36% in water) in methylene chloride (2 mL) at 0° C. under argon. The mixture was stirred at room temperature over night. EtOAc was added and the solution was washed with water, NaHCO3 and brine, dried and concentrated under reduced pressure. Flash chromatography (toluene/EtOAc, 3:1) gave 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-ethyl]-acrylic acid ethyl ester (158 mg, 41%).

reactant | Diethylamine | 1.473 mmol, 0.153 mL | C(C)NCC | C4H11N
reactant | 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-ethyl]-malonic acid monoethyl ester | 1.2 mmol, 423 mg | C(C)OC(C(C(=O)O)C(C)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C17H24N2O6
reactant | formaldehyde | 1.626 mmol, 132 mg | C=O | CH2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-ethyl]-acrylic acid ethyl ester | 158 mg, 41% | C(C)OC(C(=C)C(C)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C17H24N2O4
